US05476875
5.0 g of 3,4-dimethoxy-5-nitrophenyl(1-methylimidazol-2-yl)ketone are treated with 50 ml of hydrobromic acid (48%), whereupon the mixture is stirred under reflux temperature for 2 hours. After cooling the separated precipitate is filtered under suction, washed with ice-water and recrystallized from ethanol. There is obtained 3,4-dihydroxy-5-nitrophenyl(1-methyl-imidazol-2-yl)ketone hydrobromide in the form of yellow crystals of decomposition point>240°.

reactant | 3,4-dimethoxy-5-nitrophenyl(1-methylimidazol-2-yl)ketone | 5.0 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1N=C(N(C1)C)C(=O)C=1N(C=C(N1)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC)C | C25H24N6O9
reactant | hydrobromic acid | 50 ml | Br | BrH
product | 3,4-dihydroxy-5-nitrophenyl(1-methyl-imidazol-2-yl)ketone hydrobromide | Br.OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1N=C(N(C1)C)C(=O)C=1N(C=C(N1)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O)C | InChI=1S/C21H16N6O9.BrH/c1-24-7-11(9-3-13(26(33)34)17(30)15(28)5-9)22-20(24)19(32)21-23-12(8-25(21)2)10-4-14(27(35)36)18(31)16(29)6-10;/h3-8,28-31H,1-2H3;1H
